US08314098B2
Synthesis of N-(3-acetyl-benzylidene)-N′-(7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 142)
There was dissolved, in ethanol (2 mL), (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (30.6 mg, 0.0983 mM), then 3-acetyl-benzaldehyde (14.6 mg, 0.0983 mM) was added to the solution and the mixture was stirred at room temperature overnight. The reaction liquid was filtered and then the resulting solid was washed with diethyl ether to thus give the title compound (33.6 mg, yield: 77%).

reactant | (7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0983 mM, 30.6 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=NC=C2)NN | C15H17N7O
reactant | 3-acetyl-benzaldehyde | 0.0983 mM, 14.6 mg | C(C)(=O)C=1C=C(C=O)C=CC1 | C9H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-acetyl-benzylidene)-N′-(7-morpholin-4-yl-2-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 33.6 mg, yield: 77% | C(C)(=O)C=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=NC=C3)C=CC1 | C24H23N7O2
